US07351700B2
1-Cyclopropyl-4,4-diethoxy-but-2-yn-1-one
3,3-Diethoxy-1-propyne (10 mL, 70 mmol) was dissolved under argon in THF (150 mL) and cooled to −70° C. Then a 1.6 M solution of n-butyllithium in hexane (48 mL, 77 mmol) was added slowly at −70° C., then allowed to warm to −30° C. and stirred at −30° C. for 30 min, then cooled again to −70° C. Cyclopropanecarboxylic acid methoxy-methyl-amide (10 g, 77 mmol) was added at once at −70° C. (the temperature rose to −50°) then stirred without cooling until 0° C. was reached, then quenched with sat. NH4Cl solution (20 mL). Extraction: 2×AcOEt, 1× sat. NH4Cl, 1× sat. NaCl. The crude brown oil (15 g) was purified by chromatography on silica gel in heptane/ethyl acetate 10:1. One obtained 6 g (43%) of a yellowish oil. MS: m/z=151(M).

reactant | 3,3-Diethoxy-1-propyne | 70 mmol, 10 mL | C(C)OC(C#C)OCC | C7H12O2
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 77 mmol, 48 mL | CCCCCC | C6H14
reactant | Cyclopropanecarboxylic acid methoxy-methyl-amide | 77 mmol, 10 g | CON(C(=O)C1CC1)C | C6H11NO2
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 1-Cyclopropyl-4,4-diethoxy-but-2-yn-1-one | 6 g, 43% | C1(CC1)C(C#CC(OCC)OCC)=O | C11H16O3
